US08445696B2
A 2000 L reactor was charged with acetone (404.5 kg), followed by potassium carbonate (256 kg, 1852 mol) and 1,2-dibromoethane (241.5 kg, 1298 mol). The mixture was heated at reflux. A 500 L reactor was charged with acetone (606 kg) and 3,4-dihydroxybenzaldehyde (128 kg, 926 mol). The contents of the 500 L reactor were added to the 2000 L reactor at a rate of 150-180 kg/h while the reaction temperature was maintained at 50-60° C. The reaction mixture was stirred at 54-60° C. for 12 h, was cooled to 20° C. and was filtered through a 500 L Nutsche filter. The filter cake was washed with acetone (2×202 kg). The filtrate and acetone washes were combined in a 2000 L reactor and the resultant solution was concentrated to dryness under reduced pressure at a temperature<40° C. To the residue was added ethyl acetate (683 kg) and the resultant solution was washed with a 5% by weight aqueous solution of potassium carbonate (256 kg). The mixture was stirred for 0.5 h, allowed to settle for 0.5 h and the aqueous phase was removed. This washing procedure was repeated three times in total. The organic phase was temporarily set aside into drums. A 2000 L reactor was charged with the combined aqueous washes, followed by ethyl acetate (113.9 kg). The mixture was stirred for 0.5 h, allowed to settle for 0.5 h and the aqueous phase was removed. The organic phase from the drums was added to the reactor followed by a 28% by weight aqueous solution of sodium chloride (192 kg). The mixture was stirred for 0.5 h, allowed to settle for 0.5 h and the aqueous phase was removed. The organic phase was concentrated under reduced pressure at a temperature<45° C. until the mixture's ethyl acetate content was below 10% (as determined by gas chromatography). Petroleum ether (268.8 kg) was added to the residue at a rate of 80-90 kg/h while the mixture was maintained at a temperature of 35-45° C. The mixture was cooled to 5° C. over 3 h and held at this temperature for a further 1 h, during which time a precipitate was deposited. The resultant slurry was filtered through a centrifugal filter and dried to afford 2,3-dihydro-1,4-benzodioxine-6-carbaldehyde (111.4 kg, 73%) as an off-white solid: purity (HPLC-UV at 230 nm) 99.3%.

reactant | potassium carbonate | 1852 mol, 256 kg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromoethane | 1298 mol, 241.5 kg | BrCCBr | C2H4Br2
reactant | 3,4-dihydroxybenzaldehyde | 926 mol, 128 kg | OC=1C=C(C=O)C=CC1O | C7H6O3
solvent | acetone | 606 kg | CC(=O)C | C3H6O
solvent | acetone | 404.5 kg | CC(=O)C | C3H6O
product | 2,3-dihydro-1,4-benzodioxine-6-carbaldehyde | 111.4 kg, 73% | O1CCOC2=C1C=CC(=C2)C=O | C9H8O3
